US07678794B2
Synthesis of 6-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridine-2-carboxylic acid methyl ester
Combine 6-hydroxymethyl-pyridine-2-carboxylic acid methyl ester (2.20 g, 13.2 mmol), 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (2.56 g, 13.2 mmol), and tri-n-butylphosphine (3.94 mL, 15.8 mmol) in THF (45 mL). Add diethyl diazodicarboxylate (3.98 g, 15.8 mmol). After 12 hours at ambient temperature, add diethyl ether (white precipitate forms) and filter, collect liquid and remove solvents under reduced pressure. Purify residue by flash chromatography eluting with 3:7 hexane:ethyl acetate to obtain the title compound as a white solid (3.769 g, 10.98 mmol): mass spectrum (m/e): 344 (M+1).

reactant | 6-hydroxymethyl-pyridine-2-carboxylic acid methyl ester | 13.2 mmol, 2.20 g | COC(=O)C1=NC(=CC=C1)CO | C8H9NO3
reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 13.2 mmol, 2.56 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | tri-n-butylphosphine | 15.8 mmol, 3.94 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diethyl diazodicarboxylate | 15.8 mmol, 3.98 g | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridine-2-carboxylic acid methyl ester | 10.98 mmol, 3.769 g | COC(=O)C1=NC(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C19H21NO5
